Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Suicidal ideation 

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ with stage ___ squamous cell carcinoma of 
the left tonsil s/p cisplatin/XRT concluding in ___ who 
presents with suicidal ideation. He was last seen in ___ 
clinic on ___, at which time he was noted to have no 
evidence of recurrent disease, but was requiring fentanyl and 
frequent morphine for breakthrough pain. 

The patient was referred to the ED on ___ by his oncologist as 
his family had caller her reporting the patient was threatening 
suicide by overdose and was having active thoughts of suicide. 
Patient was evaluated by psychiatry in the ED, who wanted to 
admit the patient for inpatient psychiatric care. He was also 
evaluated by speech and swallow as patient has been having 
dysphasia ___ to his cancer. Speech and swallow did not note any 
new changes. Patient has been receiving supplemental nutrition 
from a PEG. It was found that the tubing was cut short and the 
PEG should be replaced. 

On the floor, patient states his mood is improved. He felt 
suicidal because he has been having trouble quitting his drug 
use. He has been using cocaine daily for the past 2 months. His 
last use was on ___. He has tried getting help from a rehab 
facility, but was denied as he is taking morphine and fentanyl 
for pain control. Patient currently denies any suicidal or 
homocidal ideations. 

 
Past Medical History:
PAST ONCOLOGIC HISTORY:  
Squamous cell carcinoma stage IV of the left tonsil s/p 
cisplatin/XRT concluding in ___ 
  - s/p PEG placement in ___ for supplemental nutrition. 
Receiving 6 Boosts/day.

PAST MEDICAL HISTORY:  
Substance abuse
H/o tobaco abuse
Appendectomy at ___ yo
Genital/anal warts
Hypothyroid

 
Social History:
___
Family History:
Mother with diabetes. Sister died of breast cancer. 

 
Physical Exam:
ON ADMISSION:
VITALS: T98.4, BP 109/62, P 80, RR 18, SpO2 98% RA
General: Sitting in bed, good eye contact, calm, no acute 
distress.
HEENT: Pupils equal and reactive to light. Oropharynx without 
erythema or edema, moist mucous membranes.
Neck: Supple, no JVD.  
CV: RRR, normal S1, S2. No S3, S4 or murmurs.
Lungs: Clear to auscultation bilaterally. No wheezes, crackles, 
rhonci.
Abdomen: + BS, soft, nondistended ,nontender to palpation. 
G-tube site c/d/i. 
Ext: Warm, well perfused. No peripheral edema. 
Neuro: CN II-XII grossly intact. 

ON DISCHARGE:
VITALS: T98.0, BP 104/70, P78, RR 18, SpO2 97%RA 
General: Sleeping, but arousable. No acute distress.
CV: RRR.
Lungs: Breathing comfortably.
Abdomen: + BS, soft, nondistended ,nontender to palpation. PEG 
site c/d/i. 
Ext: Warm, well perfused. No peripheral edema. 
Neuro: CN II-XII grossly intact. Moves all extremities. 

Calorie count:
No PO intake recorded by Food Service Dept. Only used I&O. 
Patient making his own "shake" of ice cream and soda mixed 
togther. KCals= 670, protein= 24g.

 
Pertinent Results:
ADMISSION LABS:
___ 02:00PM BLOOD WBC-4.0 RBC-3.86* Hgb-12.2* Hct-37.6* 
MCV-97 MCH-31.5 MCHC-32.4 RDW-11.7 Plt ___
___ 02:00PM BLOOD Glucose-100 UreaN-11 Creat-1.1 Na-139 
K-4.2 Cl-104 HCO3-29 AnGap-10
___ 09:40AM BLOOD Albumin-3.8 Calcium-9.4 Phos-3.2 Mg-1.9
___ 02:00PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 02:15AM URINE bnzodzp-NEG barbitr-NEG opiates-POS 
cocaine-POS amphetm-NEG mthdone-NEG

DISCHARGE LABS:
___ 07:30AM BLOOD WBC-4.5 RBC-3.81* Hgb-12.4* Hct-37.8* 
MCV-99* MCH-32.4* MCHC-32.7 RDW-11.6 Plt ___
___ 07:30AM BLOOD Glucose-81 UreaN-11 Creat-1.0 Na-142 
K-4.6 Cl-103 HCO3-31 AnGap-13
___ 07:30AM BLOOD Calcium-9.2 Phos-4.2 Mg-1.9

STUDIES:
Video swallow (___):
Penetration is seen with thin liquids and nectars. Mild residual 
liquid is seen in the oropharynx.

PEG study (___):
Gastrografin within the stomach indicating satisfactory position 
of the G-tube. No extraluminal contrast seen.

 
Brief Hospital Course:
Mr. ___ is a ___ with stage ___ squamous cell carcinoma of 
the left tonsil s/p cisplatin/XRT concluding in ___ who was 
admitted for suicidal ideation. He was admitted to the oncology 
service initially for medical optimization in the setting of 
concern for malfunctioning PEG and is now medically stable for 
transfer to the psychiatry service.

Active Issues:
(1)Suicidal ideation: He was urged to present to the ED by his 
loved ones after expressing suicidal ideation, indicating that 
he was considering overdosing on prescription opioids and/or 
cocaine. He was evaluated in the ED by the psychiatric service, 
with inpatient psychiatric treatment advised. While on the 
oncology service, he was followed by psychiatry, with initiation 
of mirtazepine. He was monitored by a 1:1 sitter and denied 
active suicidal or homicidal ideation throughout his stay on the 
oncology service.

(2)PEG/nutrition: He was admitted to the oncology service due to 
concern for PEG malfunction, though bedside PEG study ultimately 
revealed patent/well positioned PEG, precluding need for 
replacement. Following video swallow study demonstrating 
tolerance of soft solids and thin liquids, he was trialed on PO 
only diet with daily calorie counts. Unfortunately, they were 
able only able to use his I&Os, as his PO intake was not 
recorded. Patient stating that he has been trying to eat more. 
In the event that he requires tube feeds to maintain adequate 
caloric intake, Jevity 1.2 at 70 mL/h (or Jevity 1.2 at 105 mL/h 
x16h for cycled regimen versus Jevity 1.2 x7 cans/day for bolus 
regimen) is advised by nutrition.

(3)Substance abuse: On admission, he endorsed daily cocaine use 
for the preceding 2 months, last ___, with toxicology screen 
positive for cocaine and opiates. There were no signs of 
intoxication or withdrawal throughout his stay on the oncology 
service.

(4)Squamous cell carcinoma of the left tonsil s/p cisplatin/XRT 
concluding in ___: He has residual chronic pain and 
dysphagia, and pain remained well controlled on home Fentanyl 
patch with morphine for breakthrough throughout his stay on the 
oncology service. Chronic pain management with methadone may be 
considered in the future.

Inactive Issues:  
(1)Hypothyroidism: Home levothyroxine was continued.

Transitional Issues:
* In the event that he requires tube feeds to maintain adequate 
caloric intake, Jevity 1.2 at 70 mL/h (or Jevity 1.2 at 105 mL/h 
x16h for cycled regimen versus Jevity 1.2 x7 cans/day for bolus 
regimen) is advised by nutrition.
* Chronic pain management with methadone may be considered in 
the future.
* Pending studies: None.
* Code status: Full.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Evoxac (cevimeline) 30 mg oral TID 
2. Fentanyl Patch 150 mcg/h TD Q72H 
3. Morphine Sulfate ___ 30 mg PO Q2H:PRN pain 
4. Nicotine Patch 21 mg TD DAILY 
5. Levothyroxine Sodium 50 mcg PO DAILY 

 
Discharge Medications:
1. Fentanyl Patch 150 mcg/h TD Q72H 
2. Levothyroxine Sodium 50 mcg PO DAILY 
3. Morphine Sulfate ___ 30 mg PO Q2H:PRN pain 
4. Nicotine Patch 21 mg TD DAILY 
5. Mirtazapine 7.5 mg PO HS 
6. Evoxac (cevimeline) 30 mg oral TID 

 
Discharge Disposition:
Extended Care
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
Suicidal ideation
Depression

SECONDARY DIAGNOSIS:
Squamous cell carcinoma of Lt tonsil 
Dysphagia
Hypothyroidism

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you at ___ 
___. You came in because you were feeling depressed and had 
thoughts of harming yourself. Psychiatry evaluated you and 
believe you will benefit from inpatient psychiatric care. We 
also started on you on a new medication, mirtazapine, which may 
help with depression as well as increase your appetite.

Studies of your G-tube showed that it is patent and well 
positioned. We decided to hold off on tube feeds during 
hospitalization to see if you can take enough nutrition through 
eating. We are glad to see your taste buds are coming back, and 
encourage you to keep eating. If you are unable to maintain your 
weight, you will need to re-start tube feeds.  

We wish you all the best in your recovery. 
 
Followup Instructions:
___